US04013769
By the procedure of Example 8(i), 2-amino-5-(2-aminoethyl)thiomethyl-1,3,4-thiadiazole (from the dihydrobromide) is reacted with 1-nitro-2-,2-bis-methylthioethylene to give 1-nitro-2-methylthio-2-[2-((2-amino-5-1,3,4-thiadiazolyl)-methylthio)ethylamino]ethylene.

reactant | 2-amino-5-(2-aminoethyl)thiomethyl-1,3,4-thiadiazole | NC=1SC(=NN1)CSCCN | C5H10N4S2
reactant | 1-nitro-2-,2-bis-methylthioethylene | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
product | 1-nitro-2-methylthio-2-[2-((2-amino-5-1,3,4-thiadiazolyl)-methylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=NN=C(S1)N)SC | C8H13N5O2S3
